US08859773B2
To a suspension of 1-(tert-butylamino)isoquinoline-7-carboxylic acid (24.7 mg, 0.101 mmol) and 2′-tert-butyl-4′,6′-dihydrospiro[piperidine-4,5′-pyrazolo[3,4-c]pyridine]-7′(2′H)-one hydrochloride salt (33.9 mg, 0.101 mmol) in N,N-dimethylformamide (1 mL) was added triethylamine (0.07 mL, 0.50 mmol). The reaction mixture was stirred at room temperature for 10 minutes. Then 1-propanephosphonic acid cyclic anhydride (0.07 mL, 0.12 mmol, 50% solution in ethyl acetate) was added and the reaction mixture was stirred at room temperature overnight. N,N-dimethylformamide was removed under reduced pressure and the residue was purified by reversed-phase HPLC to give 2′-(tert-butyl)-1-(1-(tert-butylamino)isoquinoline-7-carbonyl)-4′,6′-dihydrospiro[piperidine-4,5′-pyrazolo[3,4-c]pyridin]-7′(2′H)-one (6.1 mg, 24%). +ESI (m+H) 489.3; HPLC retention time 2.94 minutes (Method B).

reactant | 1-(tert-butylamino)isoquinoline-7-carboxylic acid | 0.101 mmol, 24.7 mg | C(C)(C)(C)NC1=NC=CC2=CC=C(C=C12)C(=O)O | C14H16N2O2
reactant | 2′-tert-butyl-4′,6′-dihydrospiro[piperidine-4,5′-pyrazolo[3,4-c]pyridine]-7′(2′H)-one hydrochloride salt | 0.101 mmol, 33.9 mg | Cl.C(C)(C)(C)N1N=C2C(NC3(CC2=C1)CCNCC3)=O
reactant | triethylamine | 0.50 mmol, 0.07 mL | C(C)N(CC)CC | C6H15N
reactant | 1-propanephosphonic acid cyclic anhydride | 0.12 mmol, 0.07 mL | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 2′-(tert-butyl)-1-(1-(tert-butylamino)isoquinoline-7-carbonyl)-4′,6′-dihydrospiro[piperidine-4,5′-pyrazolo[3,4-c]pyridin]-7′(2′H)-one | 6.1 mg, 24% | C(C)(C)(C)N1N=C2C(NC3(CC2=C1)CCN(CC3)C(=O)C3=CC=C1C=CN=C(C1=C3)NC(C)(C)C)=O | C28H36N6O2
